US08957062B2
Step A: Methyl 2-(4-(2-((1S,2R)-2-(1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl)cyclopropyl)ethoxy)phenyl)acetate
2-((1S,2R)-2-(1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl)cyclopropyl)ethanol (1.7 g, 6.08 mmol), methyl 2-(4-hydroxyphenyl)acetate (1.5 g, 9.1 mmol) and triphenylphosphine (2.4 g, 9.1 mmol) were dissolved in THF (30 ml). The mixture was stirred at RT under N2 for 5 min and disisopropyl azodicarboxylate (1.78 ml, 9.1 mmol) was added. The mixture was stirred at RT overnight. The mixture was diluted with DCM (50 ml), washed with water, dried and evaporated. The crude material was purified by silica gel column (100 g SNAP, 5-25% EtOAc in hexane) to afford the desired product. LC/MS (m/z): 428 (M+H)+.

reactant | 2-((1S,2R)-2-(1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl)cyclopropyl)ethanol | 6.08 mmol, 1.7 g | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCO | C15H25N3O2
reactant | methyl 2-(4-hydroxyphenyl)acetate | 9.1 mmol, 1.5 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | triphenylphosphine | 9.1 mmol, 2.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylate | 9.1 mmol, 1.78 ml | N(=NC(=O)[O-])C(=O)[O-]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4-(2-((1S,2R)-2-(1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl)cyclopropyl)ethoxy)phenyl)acetate | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=CC=C(C=C1)CC(=O)OC | C24H33N3O4
